US04035437
Preparation Of Dimethylmalonyl Chloride
To a 500 ml. one-necked flask equipped with reflux condenser with drying tube, is added 50 grams (0.38 mole) dimethylmalonic acid (Aldrich Chemical Co.) and 300 ml. thionyl chloride. The mixture is heated to reflux for about 1 hour during which time the dimethylmalonic acid is dissolved and hydrogen chloride and sulfur dioxide are evolved. The unreacted thionyl chloride is removed by distillation under reduced pressure. The residue is recrystallized twice from cyclohexane to yield a white solid, M.P. 186°-187° C.

reactant | dimethylmalonic acid | 0.38 mole, 50 grams | CC(C(=O)O)(C(=O)O)C | C5H8O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | hydrogen chloride | Cl | ClH
reactant | sulfur dioxide | S(=O)=O | O2S
product | Dimethylmalonyl Chloride | CC(C(=O)Cl)(C(=O)Cl)C | C5H6Cl2O2
